US04940718
(Methylthio)(p-Toluenesulfonyl)methane
Dimethylsulfoxide (9.25 g, 118 mmol) and acetic anhydride (15.6 g, 153 mmol) were heated to 80° C. for 24 hours. The reaction solution was cooled to room temperature, then glacial acetic acid (90 ml), sodium acetate (9.7 g, 118 mmol) and sodium p-toluenesulfinate (31.6 g, 178 mmol, dried in vacuo overnight with P2O5 at 50° C.) were added. The mixture was heated to 100° C. for 24 hours. Brine (150 ml) was added and the solution was extracted with methylene chloride (5X, 100 ml). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give a gummy solid. The solid was recrystallized from 95% ethanol (3B) to yield 8.68 g of white crystals of (methylthio)(p-toluenesulfonyl)methane: m.p. 81°-83° C.

reactant | Dimethylsulfoxide | 118 mmol, 9.25 g | CS(=O)C | C2H6OS
reactant | acetic anhydride | 153 mmol, 15.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 118 mmol, 9.7 g | C(C)(=O)[O-].[Na+]
reactant | sodium p-toluenesulfinate | 178 mmol, 31.6 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
solvent | Brine | 150 ml | [Cl-].[Na+].O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | (Methylthio)(p-Toluenesulfonyl)methane | 8.68 g | CSCS(=O)(=O)C1=CC=C(C=C1)C | C9H12O2S2
